US03956494
By the procedure of Example 23, 2-pyridinecarboxaldehyde is reacted with N-methylpiperazine and potassium cyanide to give 2-(4-methylpiperazino)-2-(2-pyridyl)acetonitrile.

reactant | 2-pyridinecarboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | potassium cyanide | [C-]#N.[K+]
product | 2-(4-methylpiperazino)-2-(2-pyridyl)acetonitrile | CN1CCN(CC1)C(C#N)C1=NC=CC=C1 | C12H16N4
